US09340556B2
To a solution of (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate (29.9 g, 34.7 mmol) in Dichloromethane (DCM) (1.1 L) at −40° C. was added dropwise a solution of m-CPBA (8.17 g, 36.5 mmol) in Dichloromethane (DCM) (220 mL) over 10 min. The mixture was stirred at the same temperature over 30 min. LCMS indicated completion of the reaction. The mixture was treated with 15% aq. Na2S2O3 (200 mL). The organic phase was separated and washed with 5% NaHCO3 (400 mL), brine (400 mL), dried (Na2SO4), filtered, and concentrated. The residue was purified by CombiFlash automated silica gel chromatography (330 g column, 0-50% EtOAc/Hexanes) to afford (5R,6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide (29 g, 31.8 mmol, 91% yield) as a light yellow solid. LCMS: (M+H)+: 876.3

reactant | (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 34.7 mmol, 29.9 g | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCl)\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=O | C39H43Cl2N5O9S2
reactant | m-CPBA | 36.5 mmol, 8.17 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2S2O3 | 200 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | Dichloromethane | 1.1 L | ClCCl | CH2Cl2
solvent | Dichloromethane | 220 mL | ClCCl | CH2Cl2
product | (5R,6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate 5-oxide | 31.8 mmol, 29 g, 91% yield | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2[S@@](CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCl)=O)\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=O | C39H43Cl2N5O10S2
